** sch_path: /home/david/Documents/Matrix-Vector-Multiplier/analog/schematics/testbenches/DAC_tb.sch
**.subckt DAC_tb
x1 V_in I_main I_out_n I_out_p B6 B1 B3 B4 B2 B5 B0 B7 B6_bar B5_bar B2_bar B1_bar B4_bar B7_bar B3_bar B0_bar DAC
V4 B0 GND PULSE(0 1.8 0 100p 100p 15.15n 30.3n)
V5 B1 GND PULSE(0 1.8 0 100p 100p 30.3n 60.6n)
V6 B2 GND PULSE(0 1.8 0 100p 100p 60.6n 121.2n)
V7 B3 GND PULSE(0 1.8 0 100p 100p 121.2n 242.4n)
V8 B4 GND PULSE(0 1.8 0 100p 100p 242.4n 484.8n)
V9 B5 GND PULSE(0 1.8 0 100p 100p 484.8n 969.6n)
V10 B6 GND PULSE(0 1.8 0 100p 100p 969.6n 1939.2n)
V11 B7 GND PULSE(0 1.8 0 100p 100p 1939.2n 3878.4n)
V12 B0_bar GND PULSE(1.8 0 0 100p 100p 15.15n 30.3n)
V13 B1_bar GND PULSE(1.8 0 0 100p 100p 30.3n 60.6n)
V14 B2_bar GND PULSE(1.8 0 0 100p 100p 60.6n 121.2n)
V15 B3_bar GND PULSE(1.8 0 0 100p 100p 121.2n 242.4n)
V16 B4_bar GND PULSE(1.8 0 0 100p 100p 242.4n 484.8n)
V17 B5_bar GND PULSE(1.8 0 0 100p 100p 484.8n 969.6n)
V18 B6_bar GND PULSE(1.8 0 0 100p 100p 969.6n 1939.2n)
V19 B7_bar GND PULSE(1.8 0 0 100p 100p 1939.2n 3878.4n)
V1 V_in GND 1.8
C3 I_out_p GND 200f m=1
C1 I_out_n GND 200f m=1
V20 I_out_p net2 0
V21 I_main net3 0
V22 I_out_n net4 0
R2 net3 GND 500 m=1
R1 net2 GND 500 m=1
R3 net4 GND 500 m=1
C2 I_main GND 200f m=1
x2 net1 v_dac_out I_out_p GND net5 GND OpAmp
V2 net5 GND 0.9
V3 net1 GND 1.8
R4 v_dac_out I_out_p 500 m=1
**** begin user architecture code
.lib /home/david/.volare/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.control
* Longer simulation with slower switching
tran 100p 3878.4n
* Plot differential output
let diff_out = v(I_out_p) - v(I_out_n)
plot diff_out

* Also plot individual outputs to see if one is noisier
plot v(I_out_p) v(I_out_n)

write DAC_tb.raw
.endc

.end

**** end user architecture code
**.ends

* expanding   symbol:  DAC.sym # of pins=20
** sym_path: /home/david/Documents/Matrix-Vector-Multiplier/analog/schematics/DAC.sym
** sch_path: /home/david/Documents/Matrix-Vector-Multiplier/analog/schematics/DAC.sch
.subckt DAC V_in I_main I_out_n I_out_p B6 B1 B3 B4 B2 B5 B0 B7 B6_bar B5_bar B2_bar B1_bar B4_bar B7_bar B3_bar B0_bar
*.ipin B0
*.ipin B0_bar
*.ipin B1
*.ipin B2
*.ipin B3
*.ipin B1_bar
*.ipin B2_bar
*.ipin B3_bar
*.ipin B4
*.ipin B4_bar
*.ipin B5
*.ipin B6
*.ipin B7
*.ipin B5_bar
*.ipin B6_bar
*.ipin B7_bar
*.opin I_main
*.opin I_out_p
*.opin I_out_n
*.ipin V_in
XM1 net2 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=53.76 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net6 I_main net2 net2 sky130_fd_pr__pfet_01v8 L=0.15 W=53.76 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=53.76 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 I_main I_main net1 net1 sky130_fd_pr__pfet_01v8 L=0.15 W=53.76 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net3 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=26.88 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net7 I_main net3 net3 sky130_fd_pr__pfet_01v8 L=0.15 W=26.88 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net4 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=13.44 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net8 I_main net4 net4 sky130_fd_pr__pfet_01v8 L=0.15 W=13.44 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 net5 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=6.72 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 net9 I_main net5 net5 sky130_fd_pr__pfet_01v8 L=0.15 W=6.72 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 I_out_p B7 net6 net6 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM13 I_out_n B7_bar net6 net6 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM14 I_out_p B6 net7 net7 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 I_out_n B6_bar net7 net7 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM16 I_out_p B5 net8 net8 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM17 I_out_n B5_bar net8 net8 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM18 I_out_p B4 net9 net9 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM19 I_out_n B4_bar net9 net9 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 net10 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=3.36 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM20 net14 I_main net10 net10 sky130_fd_pr__pfet_01v8 L=0.15 W=3.36 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM21 net11 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM22 net15 I_main net11 net11 sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM23 net12 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM24 net16 I_main net12 net12 sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM25 net13 net1 V_in V_in sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM26 net17 I_main net13 net13 sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM27 I_out_p B3 net14 net14 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM28 I_out_n B3_bar net14 net14 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM29 I_out_p B2 net15 net15 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM30 I_out_n B2_bar net15 net15 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM31 I_out_p B1 net16 net16 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM32 I_out_n B1_bar net16 net16 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM33 I_out_p B0 net17 net17 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM34 I_out_n B0_bar net17 net17 sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  OpAmps/template/OpAmp.sym # of pins=6
** sym_path: /home/david/Documents/Matrix-Vector-Multiplier/analog/library/OpAmps/template/OpAmp.sym
** sch_path: /home/david/Documents/Matrix-Vector-Multiplier/analog/library/OpAmps/template/OpAmp.sch
.subckt OpAmp VDD Vout Vminus Vplus Vbias VSS
*.ipin Vplus
*.ipin Vminus
*.iopin VDD
*.iopin VSS
*.ipin Vbias
*.opin Vout
XM1 net2 Vminus net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=16 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net3 Vplus net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=16 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net3 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 Vbias VSS VSS sky130_fd_pr__nfet_01v8 L=0.30 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 Vout net3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.40 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC1 Vout net3 sky130_fd_pr__cap_mim_m3_1 W=1 L=1 MF=1 m=1
XM7 Vout Vbias VSS VSS sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.GLOBAL VSS
.end
